US07642264B2
2-(3-Bromo-phenyl)-4-(3-ethoxy-4-trifluoromethyl-phenyl)-6-trifluoromethyl-pyrimidine
The title compound was prepared from 2-chloro-4-(3-ethoxy-4-trifluoromethyl-phenyl)-6-trifluoromethyl-pyrimidine (example A.10) (0.25 g, 0.67 mmol) and commercially available 3-bromo-benzene-boronic acid (0.17 g, 0.85 mmol) according to the general procedure IVb. Obtained as a light yellow solid (0.32 g, 97%). MS (EI) 492.0 [(M)+]; mp 108° C.

reactant | 2-chloro-4-(3-ethoxy-4-trifluoromethyl-phenyl)-6-trifluoromethyl-pyrimidine | 0.67 mmol, 0.25 g | ClC1=NC(=CC(=N1)C1=CC(=C(C=C1)C(F)(F)F)OCC)C(F)(F)F | C14H9ClF6N2O
reactant | 3-bromo-benzene-boronic acid | 0.85 mmol, 0.17 g | BrC=1C=C(C=CC1)B(O)O | C6H6BBrO2
product | 2-(3-Bromo-phenyl)-4-(3-ethoxy-4-trifluoromethyl-phenyl)-6-trifluoromethyl-pyrimidine | BrC=1C=C(C=CC1)C1=NC(=CC(=N1)C1=CC(=C(C=C1)C(F)(F)F)OCC)C(F)(F)F | C20H13BrF6N2O
